US05747489
0.8 ml of trifluoroacetyl chloride is added with stirring and ice cooling to a solution of 1.4 g of 3-(4-aminobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one ("D") in 60 ml of dichloromethane and 1 ml of triethylamine, and the mixture is subsequently stirred for 3 hours. The solvent is removed and the residue is worked up in the conventional manner. Recrystallization from isopropanol/petroleum ether gives 1.9 g of 3-(4-trifluoroacetamidobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one, m.p. 124°.

reactant | trifluoroacetyl chloride | 0.8 ml | FC(C(=O)Cl)(F)F | C2ClF3O
reactant | 3-(4-aminobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | 1.4 g | NC1=CC=C(CN2C(SC(C(=N2)C2=CC(=C(C=C2)OC)OC)CC)=O)C=C1 | C20H23N3O3S
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 3-(4-trifluoroacetamidobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | 1.9 g | FC(C(=O)NC1=CC=C(CN2C(SC(C(=N2)C2=CC(=C(C=C2)OC)OC)CC)=O)C=C1)(F)F | C22H22F3N3O4S
